US04546198
1-(Dimethylamino)-2-propyl Isopropyl-(4-chlorophenyl)acetate
A 1 dram vial fitted with a septum cap was charged with 0.69 g of toluene followed by 1.08 g of optically-active 1-(dimethylamino)-2-propanol. The resulting mixture was chilled with ice and then 0.196 g of (4-chlorophenyl)isopropylketene was injected. The reaction temperature rose slowly to 30° C. The color discharged after 1.25 hours at room temperature. The reaction product was separated by gas liquid chromatography to give the desired product in a diastereomer ratio of 25.6% of isomer pair 1 and 74.4% of isomer pair 2.

reactant | 1-(dimethylamino)-2-propanol | 1.08 g | CN(CC(C)O)C | C5H13NO
reactant | (4-chlorophenyl)isopropylketene | 0.196 g | ClC1=CC=C(C=C1)C(=C=O)C(C)C | C11H11ClO
solvent | toluene | 0.69 g | C1(=CC=CC=C1)C | C7H8
product | 1-(Dimethylamino)-2-propyl Isopropyl-(4-chlorophenyl)acetate | C(C)(C)C(C(=O)OC(CN(C)C)C)C1=CC=C(C=C1)Cl | C16H24ClNO2
